US03992535
N-(3-Chloro-phenyl)-4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
N-(6-Chloro-4-pyrimidyl)-4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide, m.p. 263° C (decomp.), from N-(6-chloro-4-pyrimidyl)-4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide and methyl iodide.

reactant | N-(6-Chloro-4-pyrimidyl)-4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | ClC1=CC(=NC=N1)NC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C18H13ClN4O4S
reactant | N-(6-chloro-4-pyrimidyl)-4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | ClC1=CC(=NC=N1)NC(=O)C=1NS(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O | C17H11ClN4O4S
reactant | methyl iodide | CI | CH3I
product | N-(3-Chloro-phenyl)-4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | ClC=1C=C(C=CC1)NC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C20H15ClN2O4S
